US07666848B2
d) N-Benzyl-3-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yloxy)-thiophene-2-carboxamide
600 mg of 3,4,5-triacetoxy-6-(2-benzylcarbamoyl-thiophen-3-yloxy)-tetrahydro-pyran-2-ylmethyl acetate were dissolved in 40 ml of methanol, and 1.40 ml of a 30% strength methanolic sodium methanolate solution were added. The reaction mixture was stirred at 22° C. for 2 h, neutralized with 0.5 molar methanolic HCl solution and concentrated. The crude product was purified by column chromatography (SiO2, ethyl actate/methanol=10:1).

reactant | 3,4,5-triacetoxy-6-(2-benzylcarbamoyl-thiophen-3-yloxy)-tetrahydro-pyran-2-ylmethyl acetate | 600 mg | C(C)(=O)OCC1OC(C(C(C1OC(C)=O)OC(C)=O)OC(C)=O)OC1=C(SC=C1)C(NCC1=CC=CC=C1)=O | C26H29NO11S
reactant | sodium methanolate | C[O-].[Na+]
reactant | HCl | 0.5 molar | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | N-Benzyl-3-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yloxy)-thiophene-2-carboxamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1OC1OC(C(C(C1O)O)O)CO | C18H21NO7S
